US08008307B2
Step e: {(1S,2S,4R)-2-hydroxy-4-[(6-{[(1R,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]-amino}pyrimidin-4-yl)oxy]cyclopentyl}methyl sulfamate (Compound I-115)
To a solution of {(1S,2S,4R)-2-{[tert-butyl(dimethyl)silyl]oxy}-4-[(6-{[(1R,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]amino}pyrimidin-4-yl)oxy]cyclopentyl}methyl sulfamate (0.239 g, 0.000423 mol) in pyridine (3.44 mL) and THF (3.44 mL) was added pyridine hydrofluoride (0.953 mL, 0.0106 mol) dropwise. After stirring the reaction for 2 hours, an additional amount of pyridine hydrofluoride (0.50 mL, 0.0055 mol) was added. After 2.75 hours the reaction was quenched by slow dropwise addition of saturated aqueous NaHCO3 and extracted with EtOAc (4×). The combined organic phases were dried (Na2SO4), filtered and concentrated. The residue was purified by flash chromatography (0 to 10% MeOH/CH2Cl2) and then by preparative plate chromatography (EtoAc) to obtain 100 mg (52%) of the title compound. 1H NMR (CD3OD, 400 MHz) δ: 8.15 (s, 1H), 7.24-7.15 (m, 4H), 5.98 (s, 1H), 5.34 (bs, 1H), 4.41-4.38 (m, 1H), 4.32 (dd, 1H, J=7.5, 9.7 Hz), 4.24-4.20 (m, 1H), 4.17 (dd, 1H, J=7.3, 9.8 Hz), 3.35 (s, 3H), 3.13-3.00 (m, 3H), 2.57-2.48 (m, 1H), 2.31-2.25 (m, 1H) 2.12-1.93 (m, 4H) ppm. LC/MS: Rt=1.33 min, ES+ 451 (FA standard).

reactant | {(1S,2S,4R)-2-{[tert-butyl(dimethyl)silyl]oxy}-4-[(6-{[(1R,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]amino}pyrimidin-4-yl)oxy]cyclopentyl}methyl sulfamate | 0.000423 mol, 0.239 g | S(N)(OC[C@H]1[C@H](C[C@@H](C1)OC1=NC=NC(=C1)N[C@H]1[C@H](CC2=CC=CC=C12)OC)O[Si](C)(C)C(C)(C)C)(=O)=O | C26H40N4O6SSi
reactant | pyridine hydrofluoride | 0.0106 mol, 0.953 mL | F.N1=CC=CC=C1
reactant | pyridine hydrofluoride | 0.0055 mol, 0.50 mL | F.N1=CC=CC=C1
solvent | pyridine | 3.44 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 3.44 mL | C1CCOC1 | C4H8O
product | {(1S,2S,4R)-2-hydroxy-4-[(6-{[(1R,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]-amino}pyrimidin-4-yl)oxy]cyclopentyl}methyl sulfamate | 100 mg, 52% | S(N)(OC[C@H]1[C@H](C[C@@H](C1)OC1=NC=NC(=C1)N[C@H]1[C@H](CC2=CC=CC=C12)OC)O)(=O)=O | C20H26N4O6S
